US04415572
6-(1-Piperazinyl)-3,4-dihydrocarbostyril (2.6 g) and 2.34 ml of triethylamine were added to 40 ml of DMF. The mixture was stirred at room temperature while slowly adding dropwise 10 ml of DMF solution containing 2.7 g of 3,4-methylenedioxybenzoyl chloride. After completion of addition, the reaction mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into a large amount of water and extracted with chloroform. The extract was washed with sodium hydrogencarbonate solution and subsequently with water and dried over anhydrous sodium sulfate. Chloroform was distilled off and residual crystals were recrystallized from methanol to give 1.6 g of 6-[4-(3,4-methylenedioxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 191°-192.5° C., colorless needles.

reactant | 6-(1-Piperazinyl)-3,4-dihydrocarbostyril | 2.6 g | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | triethylamine | 2.34 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 3,4-methylenedioxybenzoyl chloride | 2.7 g | C1OC=2C=C(C(=O)Cl)C=CC2O1 | C8H5ClO3
solvent | water | O | H2O
product | 6-[4-(3,4-methylenedioxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 1.6 g | C1OC=2C=C(C(=O)N3CCN(CC3)C=3C=C4CCC(NC4=CC3)=O)C=CC2O1 | C21H21N3O4
